US07361763B2
To a 50 ml round bottomed flask were added 5-[3-methoxy-4-(4-methoxy-benzyloxy)-phenyl]-3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine (48 mg, 0.10 mmol), methylene chloride (2.5 ml) and 396 mg (0.28 mmol) PS-thiophenol (1.41 mmol·g−1; Argonaut Technologies). Trifluoroacetic acid (500 μl) was added and the suspension was shaken in a orbital shaker for 1 hour. The yellow reaction mixture was filtered, and the resin was washed three times with dichloromethane and ether, then twice with dichloromethane. The combined filtrate was concentrated to obtain a yellow residue, which was distributed between ethyl acetate and saturated aqueous solution of sodium bicarbonate. The layers were separated, and the aqueous phase was extracted three times with ethyl acetate. The combined organic fractions were washed with brine, dried (Na2SO4), filtered and concentrated. Purification by flash chromatography on silica gel using a gradient of ethyl acetate and hexanes gave 31 mg (86%) of 2-methoxy-4-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenol as a light yellow powder. 1H-NMR (d6-DMSO) δ=11.87 (br.s, 1H), 9.04 (br.s, 1H), 8.48 (d, 1H), 8.07 (d, 1H), 7.68 (dd, 1H), 7.57 (dd, 1H), 7.27 (t, 1H), 7.20 (d, 1H), 7.13 (d, 1H), 7.08 (dd, 1H), 7.02 (t, 1H), 6.85 (d, 1H), 3.85 (s, 3H), 3.82 (s, 3H); MS m/z: 347 [MH]+.

reactant | 5-[3-methoxy-4-(4-methoxy-benzyloxy)-phenyl]-3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine | 0.10 mmol, 48 mg | COC=1C=C(C=CC1OCC1=CC=C(C=C1)OC)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC | C29H26N2O4
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | Trifluoroacetic acid | 500 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 2.5 ml | C(Cl)Cl | CH2Cl2
product | 2-methoxy-4-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenol | 31 mg, 86% | COC1=C(C=CC(=C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)O | C21H18N2O3
